US08383809B2
A solution of chlorotrimethylsilane (126.40 g, 1.164 mol) in dichloromethane (300 L) is then added dropwise maintaining the temperature between 0° C. and 5° C. When the conversion is complete, diisopropyl ether (600 mL) is added and triethylamine hydrochloride is filtered washing the pad with diisopropyl ether. The filtrate is concentrated at 38° C. under reduced pressure and the product is purified by distillation (0-5 mmHg, 70° C.). (3-Chloropropoxy)trimethylsilane is obtained as a colourless liquid (144.57 g, 0.867 mol, 82%).

reactant | chlorotrimethylsilane | 1.164 mol, 126.40 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | diisopropyl ether | 600 mL | C(C)(C)OC(C)C | C6H14O
reactant | dichloromethane | 300 L | ClCCl | CH2Cl2
product | (3-Chloropropoxy)trimethylsilane | ClCCCO[Si](C)(C)C | C6H15ClOSi
